US05744426
N-Allyl-N-aminocarbonyl-2-chloro-3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)propenamide (Ib.242)
0.36 g (4.4 mmol) of allylcyanamide were added to a suspension of 2 g (4.4 mmol) of 2-chloro-3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)Propenoyl chloride and 0.8 g (5.8 mmol) of potassium carbonate(ground) in 50 ml of tetrahydrofuran. The reaction mixture was stirred at 50 to 60° C. for 5 hours and then concentrated. The residue was taken up in ethyl acetate, after which the organic phase was washed with water, dried over magnesium sulfate and concentrated. The crude product was purified by means of column chromatography on silica gel (eluent: ethyl acetate) followed by crystallization from diisopropyl ether. Yield: 0.2 g.

reactant | allylcyanamide | 4.4 mmol, 0.36 g | C(C=C)NC#N | C4H6N2
reactant | 2-chloro-3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)Propenoyl chloride | 4.4 mmol, 2 g | ClC(C(=O)Cl)=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)Cl)Cl | C14H7Cl5F2N2O2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-Allyl-N-aminocarbonyl-2-chloro-3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)propenamide | C(C=C)N(C(C(=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)Cl)Cl)Cl)=O)C(=O)N | C18H14Cl4F2N4O3
